US05280025
(6) Synthesis of 5-chloro-6-(1-methylthioethyl)-4-(1-phenylethylamino)pyrimidine (Compound 22)
In 30 ml of methanol was dissolved 1.20 g of 5-chloro-6-(1-chloroethyl)-4-(1-phenylethylamino)pyrimidine, and to the mixture was added 2.89 g of a methanethiol sodium salt 15% aqueous solution. The mixture was stirred at room temperature for 3 hours.

reactant | 5-chloro-6-(1-chloroethyl)-4-(1-phenylethylamino)pyrimidine | 1.20 g | ClC=1C(=NC=NC1C(C)Cl)NC(C)C1=CC=CC=C1 | C14H15Cl2N3
reactant | methanethiol sodium salt | 2.89 g | [Na].CS
solvent | methanol | 30 ml | CO | CH4O
product | 5-chloro-6-(1-methylthioethyl)-4-(1-phenylethylamino)pyrimidine | ClC=1C(=NC=NC1C(C)SC)NC(C)C1=CC=CC=C1 | C15H18ClN3S
